US08053457B2
(4-Pyridin-4-ylmethyl-piperazin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 1-Pyridin-4-ylmethyl-piperazine (commercially available from ABCR GmbH) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+=217.2: 1HNMR(CDCl3) 8.55 (d, 2H), 7.25 (d, 2H), 3.50 (s, 4H), 2.70-2.40 (m, 8H).

reactant | 1-Pyridin-4-ylmethyl-piperazine | N1=CC=C(C=C1)CN1CCNCC1 | C10H15N3
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Pyridin-4-ylmethyl-piperazin-1-yl)-acetonitrile | N1=CC=C(C=C1)CN1CCN(CC1)CC#N | C12H16N4
